US07713993B2
Synthesis of 5-chloro-2-(2,4,6-trifluorophenyl)pentanoic acid N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide
IPEA (0.46 mL) and BOPCl (333 mg) were added to a solution of 5-chloro-2-(2,4,6-trifluorophenyl)pentanoic acid hydrazide hydrochloride (277 mg) and (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (225 mg) in methylene chloride (10 mL), and the reaction solution was stirred at room temperature for two hours. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane:ethyl acetate=1:1->ethyl acetate->ethyl acetate:methanol=9:1) to obtain 286 mg of the title compound. The property value of the compound is as follows.

reactant | IPEA | 0.46 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | BOPCl | 333 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | 5-chloro-2-(2,4,6-trifluorophenyl)pentanoic acid hydrazide hydrochloride | 277 mg | Cl.ClCCCC(C(=O)NN)C1=C(C=C(C=C1F)F)F
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 225 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-(2,4,6-trifluorophenyl)pentanoic acid N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide | 286 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NNC(C(CCCCl)C1=C(C=C(C=C1F)F)F)=O | C25H24ClF3N4O3
